US06313122B1
B. 2-(4-tert-Butylbenzoylamino)-4-nitro-N-(4-methoxyphenyl)benzamide
To a mixture of 2-amino-4-nitro-N-(4-methoxyphenyl)benzamide (2.0 g, 7.0 mmol) and pyridine (0.62 mL, 7.7 mmol) in methylene chloride (40 mL) was added 4-tert-butylbenzoyl chloride (1.44 mL, 7.35 mmol). After stirring for 1.5 h, silica gel (30 g) was added and the solvent evaporated with a stream of nitrogen. The resulting material was chromatographed (silica gel, 5% hexanes/95% methylene chloride to 1.25% ethyl acetate/98.75% methylene chloride) to give 2.41 g (77%) of the title compound as a yellow solid; mp 221° C.

reactant | 2-amino-4-nitro-N-(4-methoxyphenyl)benzamide | 7.0 mmol, 2.0 g | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC(=C1)[N+](=O)[O-] | C14H13N3O4
reactant | pyridine | 7.7 mmol, 0.62 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-tert-butylbenzoyl chloride | 7.35 mmol, 1.44 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-tert-Butylbenzoylamino)-4-nitro-N-(4-methoxyphenyl)benzamide | 2.41 g, 77% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)[N+](=O)[O-])C=C1 | C25H25N3O5
